US06174459B1
Under a nitrogen gas stream, 3.32 g (136 mmol) of magnesium was added to 50 ml of THF, and 300 ml of a THF solution containing 23.9 g (124 mmol) of 3,5-difluorobromobenzene was added dropwise, while a reaction temperature was maintained at about 50° C. After stirring at room temperature for 1 hour, 300 ml of a solution containing 28.7 g (103 mmol) of 4-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)butanal obtained by the reaction in the fifth step was added dropwise. After stirring at 50 to 60° C. for 2 hours, 200 ml of an aqueous saturated ammonium chloride solution was added, thereby terminating the reaction. The reaction mixture was filtered through Celite, and the solvent was then distilled off under reduced pressure, followed by extraction with 500 ml of toluene. The resulting organic layer was washed 3 times with 200 ml of water, and then dried over anhydrous magnesium sulfate. After drying, 1.50 g of p-toluenesulfonic acid monohydrate was added, and heating was done under reflux for 4 hours. The organic layer was washed 3 times with 200 ml of water, and then dried over anhydrous magnesium sulfate. Next, the solvent was distilled off under reduced pressure, and the resulting residue was purified through silica gel column chromatography (a developing solvent: heptane) to obtain 18.7 g of crude 1,3-difluoro-5-(4-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)butenyl)benzene.

reactant | magnesium | 136 mmol, 3.32 g | [Mg] | Mg
reactant | 3,5-difluorobromobenzene | 124 mmol, 23.9 g | FC=1C=C(C=C(C1)F)Br | C6H3BrF2
reactant | 4-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)butanal | 103 mmol, 28.7 g | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCC=O | C19H34O
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1,3-difluoro-5-(4-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)butenyl)benzene | 18.7 g | FC1=CC(=CC(=C1)C=CCC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC)F | C25H36F2
